US05753657
A mixture of 0.4 g of 10-benzylidene-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 90 ml of dimethylformamide and 10 ml of methanol is hydrogenated at a temperature in the region of 20° C. at a pressure of 1.9 bar of hydrogen for 3 hours in the presence of 10% palladium on charcoal. The catalyst is then filtered off under inert atmosphere and the solvents are evaporated off. The brown solid obtained (0.37 g) is purified by chromatography on a column of silica (35 g) with a mixture of dichloromethane and methanol (90/10 by volume). After trituration with 5 ml of dichloromethane, filtration and drying at 100° C., 0.15 g of 10-benzyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is obtained, in the form of a beige solid melting above 260° C. (Analysis % calculated C: 76.66, H: 4.82, N: 13.41, O: 5.11, % found C: 76.3, H: 4.6, N: 13.4).

reactant | 10-benzylidene-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.4 g | C(C1=CC=CC=C1)=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C20H13N3O
reactant | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 10-benzyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.15 g | C(C1=CC=CC=C1)C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C20H15N3O
